US09126931B2
6-Cyano-2-[1-(6-methoxy-pyridin-2-yl)-1-methyl-ethyl]-benzofuran-3-carboxylic acid tert-butyl ester
According to the method that is used for the preparation of Compound FR1, the title compound was synthesized from 4-(6-methoxy-pyridin-2-yl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester and 4-chloro-3-nitrobenzonitrile.

reactant | 4-(6-methoxy-pyridin-2-yl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(C)(C)C1=NC(=CC=C1)OC)=O)=O | C16H23NO4
reactant | 4-chloro-3-nitrobenzonitrile | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
product | 6-Cyano-2-[1-(6-methoxy-pyridin-2-yl)-1-methyl-ethyl]-benzofuran-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(OC2=C1C=CC(=C2)C#N)C(C)(C)C2=NC(=CC=C2)OC | C23H24N2O4
